US04556672
2-Oxindole-1-carboxamide
To a stirred mixture of 2-oxindole (5.86 g, 44.0 mmole) and dry toluene (160 ml) was added chlorosulfonyl isocyanate (7.47 g, 52.8 mmole). Hydrogen chloride was immediately evolved. The mixture was stirred under reflux for 15 minutes and then it was cooled to room temperature. Water (50 ml) was added to the cooled mixture (some HCl was initially evolved) and then the mixture was stirred for 1.5 hours. The solid which formed was collected by filtration and dried (4.10 g). The filtrate was extracted with ethyl acetate (100 ml), and the resulting extract was washed with brine (2×100 ml) and dried (MgSO4). Evaporation of the extract under reduced pressure gave 4.16 g of solid. The combined solids were recrystallized by dissolution in acetonitrile (200 ml) followed by concentration of the solution under reduced pressure to about 75 ml. The small amount of amorphous material which separated was filtered off, the filtrate was decolorized and concentrated under reduced pressure to about 50 ml volume, then seeded. This gave the title compound as dark red crystals which were filtered off and dried (3.0 g; 38%).

reactant | 2-oxindole | 44.0 mmole, 5.86 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
reactant | chlorosulfonyl isocyanate | 52.8 mmole, 7.47 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Hydrogen chloride | Cl | ClH
solvent | Water | 50 ml | O | H2O
product | 2-Oxindole-1-carboxamide | 4.16 g | N1(C(CC2=CC=CC=C12)=O)C(=O)N | C9H8N2O2
